US07888364B2
50 mg of 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to isopropylamine via Procedure G. The product was purified on reverse phase HPLC to yield N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-isopropylterephthalamide. MS (Q1) 394 (M)+.

reactant | 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 50 mg | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(=O)O)C=C1)C1=NC=CC=C1 | C19H13ClN2O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-isopropylterephthalamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C(=O)NC(C)C)C=C1)=O)C1=NC=CC=C1 | C22H20ClN3O2
